US08106070B2
Triethylamine (0.48 mL, 34.5 mmol) followed by dimethylsulfamoyl chloride (0.24 mL, 46 mmol) were added to an ambient temperature solution of N-{2-(4-bromophenyl)-1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}acetamide (450 mg, 11.5 mmol) in methylene chloride (10 mL). After stirring at ambient temperature overnight, the reaction mixture was diluted with water and extracted with ethyl acetate and methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-50% acetone/methylene chloride afforded N-{2-(4-bromophenyl)-1-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}acetamide.

reactant | Triethylamine | 34.5 mmol, 0.48 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfamoyl chloride | 46 mmol, 0.24 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | N-{2-(4-bromophenyl)-1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}acetamide | 11.5 mmol, 450 mg | BrC1=CC=C(C=C1)CC(C=1NC=C(N1)CC(CC)(C)C)NC(C)=O | C19H26BrN3O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-{2-(4-bromophenyl)-1-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}acetamide | BrC1=CC=C(C=C1)CC(C=1N(C=C(N1)CC(CC)(C)C)S(=O)(=O)N(C)C)NC(C)=O | C21H31BrN4O3S
